US05508293
Synthesis of N-cyano-N'-[2-(2-chlorophenyl)ethyl]-5-ethylamino-3-pyridinecarboximidamid
To a solution of propyl N-cyano-5-ethylamino-3-pyridinecarboximidate (98 mg, 0.42 mmol) in methanol (3 ml) was added 2-(2-chlorophenyl)ethylamine(79 mg, 0.51 mmol), and the mixture was stirred for 105 minutes. The residue obtained by concentration under reduced pressure was purified by silica gel column chromatography (Wako Gel C-200, 30 g; eluted with chloroform:methanol=100:1) and further crystallized from diethyl ether to give the title compound (110 mg, 0.34 mmol) as colorless crystals in the yield of 80%.

reactant | propyl N-cyano-5-ethylamino-3-pyridinecarboximidate | 0.42 mmol, 98 mg | C(#N)N=C(OCCC)C=1C=NC=C(C1)NCC | C12H16N4O
reactant | 2-(2-chlorophenyl)ethylamine | 0.51 mmol, 79 mg | ClC1=C(C=CC=C1)CCN | C8H10ClN
solvent | methanol | 3 ml | CO | CH4O
product | N-cyano-N'-[2-(2-chlorophenyl)ethyl]-5-ethylamino-3-pyridinecarboximidamid | 0.34 mmol, 110 mg, yield of 80% | C(#N)NC(=NCCC1=C(C=CC=C1)Cl)C=1C=NC=C(C1)NCC | C17H18ClN5
